US06333431B1
To a suspension of 1.23 g of ethyl 1-cyclopropyl-6,7-difluoro-5-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylate and 254 mg of lithium chloride in acetonitrile was added 1.00 g of 2-methylpiperazine, followed by heating and refluxing for 4 hours. After adding 24 ml of warm water, the reaction mixture was allowed to cool to precipitate crystals and the resulting crystals were filtered and washed with water. The crystals were suspended in 8 ml of isopropyl alcohol and 8 ml of 1N-NaOH, followed by stirring at a temperature in the range of 50° C. to 60° C. for 1 hour. After evaporating the isopropyl alcohol, to the residue were added 40 ml of water and 1.24 ml of concentrated hydrochloric acid, followed by washing with dichloromethane. The aqueous layer was heated at 100° C. for 1 hour to distill off the residual dichloromethane. After the aqueous layer was allowed to cool, 1.04 g of sodium hydrogencarbonate was added and heated with stirring at 60° C. for 1 hour, thereby neutralizing the aqueous layer. The aqueous layer was allowed to cool again, followed by stirring at 0° C. for 1 hour. The resulting crystals were filtered, washed with water and dried at 80° C. for 16 hours to give 1.40 g of 1-cyclopropyl-6-fluoro-7-(3-methyl-1-piperazinyl)-5-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid.

reactant | ethyl 1-cyclopropyl-6,7-difluoro-5-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylate | 1.23 g | C1(CC1)N1C=C(C(C2=C(C(=C(C=C12)F)F)C)=O)C(=O)OCC | C16H15F2NO3
reactant | lithium chloride | 254 mg | [Cl-].[Li+]
reactant | 2-methylpiperazine | 1.00 g | CC1NCCNC1 | C5H12N2
reactant | water | 24 ml | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-cyclopropyl-6-fluoro-7-(3-methyl-1-piperazinyl)-5-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1.40 g | C1(CC1)N1C=C(C(C2=C(C(=C(C=C12)N1CC(NCC1)C)F)C)=O)C(=O)O | C19H22FN3O3
